US05166155
4,5-difluoro-2-nitroaniline (2.17 g, 12.5 mmol) was dissolved in 55 ml of ethanol and 250 mg of 10% palladium on carbon was added. The mixture was hydrogenated until the theoretical amount of hydrogen had been absorbed, using a low pressure hydrogenation apparatus. The catalyst was filtered off and the filtrate, containing 4,5-difluoro-o-phenylenediamine, was kept under a nitrogen atmosphere at 0° C. followed by addition of a solution of glyoxylic acid hydrate (1.28 g, 13.7 mmol) in water (3 ml). When the addition was complete the reaction temperature was allowed to reach room temperature during 2 h and 30 ml of water was added. The precipitate was filtered off and dissolved in 60 ml of 5% NaOH solution at 50° C. followed by addition of activated carbon. The mixture was filtered and the filtrate was acidified (pH=1) by addition of concentrated hydrochloric acid. The pinky precipitate was filtered off, washed with water and dried to afford 1.25 g (55 %) of 6,7-difluoroquinoxalin-2(1H)-one melting at 284°-85° C. 1H-NMR (DMSO-d6): 7.27 (m, 1H), 7.95 (m, 1H), 8.20 (s, 1H), 12.55 (s,1H).

reactant | 4,5-difluoro-2-nitroaniline | 12.5 mmol, 2.17 g | FC1=CC(=C(N)C=C1F)[N+](=O)[O-] | C6H4F2N2O2
reactant | hydrogen | [H][H] | H2
reactant | glyoxylic acid hydrate | 13.7 mmol, 1.28 g | O.C(C=O)(=O)O
solvent | ethanol | 55 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
solvent | water | 3 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 6,7-difluoroquinoxalin-2(1H)-one | 1.25 g, 55 % | FC=1C=C2N=CC(NC2=CC1F)=O | C8H4F2N2O
